US07129250B2
5-Benzyloxyindole (500 mg, 2.24 mmol) was dissolved in THF (20 mL) and treated with 1M KOtBu in THF (2.24 mL, 2.24 mmol). After stirring for 3 hours, N-(bromomethyl) phthalimide (538 mg, 2.24 mmol) was added and the reaction mixture was stirred for an additional 24 hrs. Standard aqueous workup and purification by silica gel chromatography, eluting with 3:1 hexane/ethyl acetate, provided N-(methylenephthalimido)-5-benzyloxyindole (650 mg, 76%). 1H NMR (200 MHz, CDCl3) δ 7.83 (d, J=5.5 Hz, 1H), 7.81 (d, J=5.5 Hz, 1H), 7.72–7.65 (m, 2H), 7.45 (m, 1H), 7.42 (d, 3.0 Hz, 2H), 7.40–25 (m, 2H), 7.09 (d, J=2.2 Hz, 1H), 7.00 (dd, J=2.2, 9.0 Hz, 1H), 6.49 (d, J=3.2 Hz, 1H), 5.91 (s, 2H), 5.07 (s, 2H). MS (EI. m/z) M+=382.

reactant | 5-Benzyloxyindole | 2.24 mmol, 500 mg | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | KOtBu | 1M | CC(C)(C)[O-].[K+]
reactant | N-(bromomethyl) phthalimide | 2.24 mmol, 538 mg | BrCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6BrNO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 2.24 mmol, 2.24 mL | C1CCOC1 | C4H8O
product | N-(methylenephthalimido)-5-benzyloxyindole | 650 mg, 76% | C=C1C2C(C(=O)N(C2=O)N2C=CC3=CC(=CC=C23)OCC2=CC=CC=C2)=CC=C1 | C24H18N2O3
